* test sin voltage generator
R1 N002 N001 1
R2 N003 N002 2
R3 0 N002 8
R4 0 N004 4
V1 N003 N004 SINE(0 4 10)
V2 N001 0 1
.tran 0 1s 0 100us
.backanno
.end